US09388189B2
a) 6-Bromo-1-((4-methoxyphenyl)sulfonyl)-1H-indazole
6-Bromo-1H-indazole (500 mg, 2.54 mmol) was treated with 4-methoxybenzene-1-sulfonyl chloride (576 mg, 2.79 mmol) according to the method described in Preparation 15b to give 820 mg (81% yield) of the title compound. Purity 92%.

reactant | 6-Bromo-1H-indazole | 2.54 mmol, 500 mg | BrC1=CC=C2C=NNC2=C1 | C7H5BrN2
reactant | 4-methoxybenzene-1-sulfonyl chloride | 2.79 mmol, 576 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 6-Bromo-1-((4-methoxyphenyl)sulfonyl)-1H-indazole | 820 mg, 81% yield | BrC1=CC=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C14H11BrN2O3S
